US07348347B2
Ethanol (50 mL) was added to ethyl 3-bromo-2-oxocyclohexane-carboxylate (50 g, 0.20 mol) and thiourea (15.3 g, 0.20 mol) and the reaction mixture was stirred for a period of 24 hours at room temperature under a blanket of nitrogen as inert gas. Following the removal of the solvent, ether (100 mL) was added to the residue. Following stirring for a period of 2 hours at room temperature, the suspension was filtered off and the solid matter was dried in vacuo. The product ethyl 2-amino-4,5,6,7-tetrahydrobenzthiazole-4-carboxyate hydrobromide was obtained in a yield of 58.6 g (corresponding to 95% of theory).

reactant | ethyl 3-bromo-2-oxocyclohexane-carboxylate | 0.20 mol, 50 g | BrC1C(C(CCC1)C(=O)OCC)=O | C9H13BrO3
reactant | thiourea | 0.20 mol, 15.3 g | NC(=S)N | CH4N2S
solvent | Ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 2-amino-4,5,6,7-tetrahydrobenzthiazole-4-carboxyate hydrobromide | Br.NC=1SC2=C(N1)C(CCC2)C(=O)OCC | InChI=1S/C10H14N2O2S.BrH/c1-2-14-9(13)6-4-3-5-7-8(6)12-10(11)15-7;/h6H,2-5H2,1H3,(H2,11,12);1H
